US07652011B2
A) 2-(2,2-Diethoxyethyl)-4,4-diethoxy-2-[3-(trifluoromethyl)phenyl]butanenitrile
A mixture of 30 g of 3-(trifluoromethyl)-phenylacetonitrile and 14.4 g of sodium amide in 400 ml of toluene is left with stirring at AT for 5 minutes, 66 ml of bromoacetaldehyde diethyl acetal are added and then the mixture is heated at 60° C. for 3 hours. It is concentrated under vacuum, the residue is taken up with water and extracted with ether, the organic phase is dried over Na2SO4 and the solvent is evaporated under vacuum. The residue is chromatographed on silica gel H, eluting with a DCM/AcOEt (100/5; v/v) mixture. This gives 26 g of the expected product.

reactant | 3-(trifluoromethyl)-phenylacetonitrile | 30 g | FC(C=1C=C(C=CC1)CC#N)(F)F | C9H6F3N
reactant | sodium amide | 14.4 g | [NH2-].[Na+]
reactant | bromoacetaldehyde diethyl acetal | 66 ml | C(C)OC(CBr)OCC | C6H13BrO2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,2-Diethoxyethyl)-4,4-diethoxy-2-[3-(trifluoromethyl)phenyl]butanenitrile | C(C)OC(CC(C#N)(CC(OCC)OCC)C1=CC(=CC=C1)C(F)(F)F)OCC | C21H30F3NO4
